US07582760B2
Potassium carbonate (5.71 g., 41.4 mmol) was added to a solution of 1-benzyloxy-3-fluoro-2-nitro-benzene (6.818 g, 27.6 mmol) and benzylamine (3.32 mL, 30.34 mmol) in tetrahydrofuran, and the resulting suspension was heated to 110° C. for 2 hours. After cooling to room temperature, the mixture was poured onto 1 L of ice water and extracted twice with 150 mL ethyl acetate and twice with 75 mL dichloromethane. The combined organic fractions were dried over sodium sulfate and concentrated in vacuo in the presence of 25 g. silica gel. The preloaded silica gel was submitted to flash chromatography (8% to 35% ethyl acetate in hexanes) to give 8.118 g (24.28 mmol, 88%) of benzyl-(3-benzyloxy-2-nitro-phenyl)-amine as an orange solid. MS: 335 (M+H)+.

reactant | Potassium carbonate | 41.4 mmol, 5.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-benzyloxy-3-fluoro-2-nitro-benzene | 27.6 mmol, 6.818 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)F)[N+](=O)[O-] | C13H10FNO3
reactant | benzylamine | 30.34 mmol, 3.32 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzyl-(3-benzyloxy-2-nitro-phenyl)-amine | 24.28 mmol, 8.118 g, 88% | C(C1=CC=CC=C1)NC1=C(C(=CC=C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C20H18N2O3
